US04713478
The procedure of Example 2 was followed except that trans-1,4-dichlorobutene-2 as obtained by the procedure of Example 3 was condensed with dimethyl malonate. High yields of dimethyl 2-vinylcyclopropane-1,1-dicarboxylate of high purity were obtained.

reactant | trans-1,4-dichlorobutene-2 | C(/C=C/CCl)Cl | C4H6Cl2
reactant | dimethyl malonate | C(CC(=O)OC)(=O)OC | C5H8O4
product | dimethyl 2-vinylcyclopropane-1,1-dicarboxylate | C(=C)C1C(C1)(C(=O)OC)C(=O)OC | C9H12O4
